simulator lang=spectre
global 0
; NOTE: replace with your own PDK model file. Original: CSMC 0.18um, sm1816m50v13_usage.scs, section=tt_lib
include "/path/to/your/pdk/model.scs" section=tt_lib

subckt NMCNR VINN VINP VOUT IBIAS VDD VSS
NM7 (IBIASP IBIAS VSS VSS) mn18 w=1.998e-05 l=1.33e-06 m=41 //// Bias transistor
NM6 (net021 net028 VSS VSS) mn18 w=1.905e-05 l=1.043e-06 m=12 //// **Load** transistor, 2nd stage
NM5 (VOUT net021 VSS VSS) mn18 w=1.99e-05 l=9.606e-07 m=22 //// **Input** transistor, load(3rd) stage
NM4 (net028 net028 VSS VSS) mn18 w=1.952e-05 l=1.72e-06 m=25 //// **Load** transistor, 2nd stage
NM0 (net27 VINN net26 VSS) mn18 w=1.852e-05 l=1.157e-06 m=13 //// **Input** transistor, 1st stage ``NM1``
NM3 (IBIAS IBIAS VSS VSS) mn18 w=1.834e-05 l=1.408e-06 m=4 //// Bias transistor
NM2 (net26 IBIAS VSS VSS) mn18 w=1.89e-05 l=6.691e-07 m=7 //// Current tail transistor, 1st stage
NM1 (net28 VINP net26 VSS) mn18 w=1.852e-05 l=1.157e-06 m=13 //// **Input** transistor, 1st stage ``NM0``
PM5 (IBIASP IBIASP VDD VDD) mp18 w=1.699e-05 l=1.25e-06 m=4 //// Bias transistor
PM4 (net021 IBIASP VDD VDD) mp18 w=1.986e-05 l=1.497e-06 m=29 //// **Load** transistor, 2nd stage
PM3 (VOUT IBIASP VDD VDD) mp18 w=1.988e-05 l=8.778e-07 m=37 //// **Load** transistor, load(3rd) stage
PM2 (net028 net28 VDD VDD) mp18 w=1.921e-05 l=8.482e-07 m=23 //// **Input** transistor, 2nd stage
PM1 (net27 net27 VDD VDD) mp18 w=1.988e-05 l=6.592e-07 m=18 //// **Load** transistor, 1st stage ``PM0``
PM0 (net28 net27 VDD VDD) mp18 w=1.988e-05 l=6.592e-07 m=18 //// **Load** transistor, 1st stage ``PM1``
C1 (net021 net027) capacitor c=9.891e-13 m=1 //// Miller cap 1
C0 (net28 net027) capacitor c=7.118e-13 m=1 //// Miller cap 2
R0 (net027 VOUT) resistor r=5366.0 m=1 //// Nulling resistor
ends NMCNR



            V0 (VSS 0) vsource dc=0 type=dc
            V1 (VDD 0) vsource dc=1.8 type=dc
            C0 (VOUT VSS) capacitor c=5e-11
            I0 (VDD IBIAS) isource dc=3e-07 type=dc
            V2 (VINP 0) vsource dc=0.9 type=dc
            IPRB0 (VINN VOUT) iprobe
            I1 (VINN VINP VOUT IBIAS VDD VSS) NMCNR
            